* CMOS inverter transient - NMOS1V8 pull-down, PMOS1V8 pull-up (TT corner)
.include "../autohv_bicmos180_case.lib"
.param case=0
.param VDD=1.8

Vdd vdd 0 {VDD}
Vin in  0 PULSE(0 {VDD} 1n 0.2n 0.2n 4n 10n)

* PMOS: drain=out gate=in source=vdd bulk=vdd
XP out in vdd vdd PMOS1V8 W=20u L=1u M=1
* NMOS: drain=out gate=in source=0 bulk=0
XN out in 0 0 NMOS1V8 W=10u L=1u M=1
CL out 0 50f

.tran 0.05n 20n

.control
  run
  meas tran tphl TRIG v(in) VAL=0.9 RISE=1 TARG v(out) VAL=0.9 FALL=1
  * plot in out       ; uncomment for interactive waveforms
.endc
.end
